US08258501B2
0.66 g 2-amino-4,6-dimethyl-1,4,5,6-tetrahydropyrimidine was refluxed to boiling point in a methanolic solution with the addition of perchloric acid with an equimolar amount of 1,1,3,3-tetramethoxypropane. Removing the solvent and coating the residue with a layer of diethyl ether yielded the 2,4-dimethyl-3,4-dihydro-2H-pyrimido[1,2-a]pyrimidine hydroperchlorate, which was filtered off and dried in a vacuum.

reactant | 2-amino-4,6-dimethyl-1,4,5,6-tetrahydropyrimidine | 0.66 g | NC=1NC(CC(N1)C)C | C6H13N3
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | 1,1,3,3-tetramethoxypropane | COC(CC(OC)OC)OC | C7H16O4
product | 2,4-dimethyl-3,4-dihydro-2H-pyrimido[1,2-a]pyrimidine | CC1N=C2N(C(C1)C)C=CC=N2 | C9H13N3
